US07812160B2
A solution of methyl {4-chloro-2-[4-(2-naphthoylamino)benzyl]-6-pyrrolidin-1-ylpyrimidin-5-yl}acetate (0.085 g, 0.17 mmol) in THF (3 mL) was treated with 1N NaOH (1.5 mL) and the biphasic mixture was stirred at room temperature for 45 hours. Et2O was then added and the organic layer siphoned off. The remaining aqueous layer was cooled to 0° C. and acidified with 6N HCl. The separated solids were collected by suction and rinsed with water. Drying under high vacuum at 45° C. for 5 hours gave {4-chloro-2-[4-(2-naphthoylamino)benzyl]-6-pyrrolidin-1-ylpyrimidin-5-yl}acetic acid (0.050 g, 56% yield) as an off-white powder.

reactant | methyl {4-chloro-2-[4-(2-naphthoylamino)benzyl]-6-pyrrolidin-1-ylpyrimidin-5-yl}acetate | 0.17 mmol, 0.085 g | ClC1=NC(=NC(=C1CC(=O)OC)N1CCCC1)CC1=CC=C(C=C1)NC(=O)C1=CC2=CC=CC=C2C=C1 | C29H27ClN4O3
reactant | NaOH | 1N, 1.5 mL | [OH-].[Na+]
reactant | Et2O | CCOCC | C4H10O
reactant | HCl | 6N | Cl | ClH
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | {4-chloro-2-[4-(2-naphthoylamino)benzyl]-6-pyrrolidin-1-ylpyrimidin-5-yl}acetic acid | 0.050 g, 56% yield | ClC1=NC(=NC(=C1CC(=O)O)N1CCCC1)CC1=CC=C(C=C1)NC(=O)C1=CC2=CC=CC=C2C=C1 | C28H25ClN4O3
